US05229402
A 5 g quantity of 5-hydroxymethyl-2-pyrrolidinone [Journal of Organic Chemistry, 45, 816 (1980)] was dissolved in 10 ml of dihydropyran, 0.1 ml of concentrated hydrochloric acid was added to the solution, and the mixture was stirred at room temperature for 4 hours. Excessive dihydropyran was distilled off in a vacuum, and the residue was subjected to silica gel column chromatography to obtain an eluate of benzene/ethyl acetate=9/1, which gave 7.9 g of 5-(2-tetrahydropyranoxy)methyl-2-pyrrolidinone (yield 90%).

reactant | 5-hydroxymethyl-2-pyrrolidinone | OCC1CCC(N1)=O | C5H9NO2
reactant | hydrochloric acid | 0.1 ml | Cl | ClH
reactant | dihydropyran | 10 ml | O1CCCC=C1 | C5H8O
product | 5-(2-tetrahydropyranoxy)methyl-2-pyrrolidinone | 7.9 g, yield 90% | O1C(CCCC1)OCC1CCC(N1)=O | C10H17NO3
